US07741327B2
A mixture of (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methylsulfanyl-butyric acid methyl ester (513 mg, 1.44 mmol) in a 1:1 solution of tetrahydrofuran:water (20 mL) was treated with lithium hydroxide monohydrate (120 mg, 2.88 mmol) and stirred for 1.5 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and partioned between 1N aqueous hydrochloric acid (10 mL) and ethyl acetate (20 mL). The organic layer was separated, dried over sodium sulfate and concentrated in vacuo to afford (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methylsulfanyl-butyric acid (438 mg, 89%) as a light amber gum.

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methylsulfanyl-butyric acid methyl ester | 1.44 mmol, 513 mg | COC([C@H](CCSC)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C16H18ClNO4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 2.88 mmol, 120 mg | O.[OH-].[Li+]
solvent | water | 20 mL | O | H2O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methylsulfanyl-butyric acid | 438 mg, 89% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CCSC)=O)C=CC=C1 | C15H16ClNO4S
